US05591849
To a solution of 3.0 g of 1'-trifluoroacetyl-3,4-dihydro-7-nitrospiro[naphthalene-2(1H),2'-piperidine]-1-one in 50 ml of ethanol, 0.30 g of 10% palladium-carbon catalyst and 2 ml of concentrate hydrochloric acid were added, followed by 3 hours of catalytic reduction at normal pressure and temperature. After the catalyst was filtered off, the filtrate was distilled to remove the solvent. The residue was dissolved in methylene chloride and washed with water. The methylene chloride layer was dried over anhydrous magnesium sulfate and filtered, after which the solvent was distilled off. The residue was treated with 2.2 ml of 4 N-methanolic hydrochloric acid to yield a solid, which was then recrystallized from ethanol-ether to yield 2.37 g of 7-amino-1'-trifluoroacetyl-3,4-dihydrospiro[naphthalene-2(1H),2'-piperidine]-1-one hydrochloride as a white crystal.

reactant | 1'-trifluoroacetyl-3,4-dihydro-7-nitrospiro[naphthalene-2(1H),2'-piperidine]-1-one | 3.0 g | FC(C(=O)N1C2(CCCC1)C(C1=CC(=CC=C1CC2)[N+](=O)[O-])=O)(F)F | C16H15F3N2O4
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.30 g | [C].[Pd]
product | 7-amino-1'-trifluoroacetyl-3,4-dihydrospiro[naphthalene-2(1H),2'-piperidine]-1-one hydrochloride | 2.37 g | Cl.NC1=CC=C2CCC3(N(CCCC3)C(C(F)(F)F)=O)C(C2=C1)=O | InChI=1S/C16H17F3N2O2.ClH/c17-16(18,19)14(23)21-8-2-1-6-15(21)7-5-10-3-4-11(20)9-12(10)13(15)22;/h3-4,9H,1-2,5-8,20H2;1H
